US07495007B2
To a solution of E/Z-6-chloro-3-(5-chloro-2-nitro-benzylidene)-1,3-dihydro-indol-2-one (6.68 g, 20 mmol) in dichloromethane (50 mL) at room temperature was added di-tert-butyl-dicarbonate (5.2 g, 24 mmol), followed by the addition of 4-dimethylaminopyridine (0.24 g, 2 mmol). The reaction mixture was stirred at room temperature for 1 h. The mixture was then concentrated and the residue was purified by chromatography to give E/Z-6-chloro-3-(5-chloro-2-nitro-benzylidene-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (Yield 2.7 g).

reactant | Z-6-chloro-3-(5-chloro-2-nitro-benzylidene)-1,3-dihydro-indol-2-one | 20 mmol, 6.68 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C15H8Cl2N2O3
reactant | di-tert-butyl-dicarbonate | 24 mmol, 5.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2 mmol, 0.24 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-chloro-2-nitro-benzylidene-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | Yield 2.7 g | C(C)(C)(C)OC(=O)N1C(C(C2=CC=CC=C12)=CC1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C20H17ClN2O5
